US08471005B2
4-[1-(4-Nitro-phenyl)-piperidin-3-yl]-morpholine (1.30 g, 4.46 mmol) was dissolved in Ethanol (35.0 mL, 599 mmol) and the solution was carefully added to 10% Palladium on Carbon (0.500 g, 37.5 mmol) under nitrogen. The mixture was then placed on a Parr hydrogenation apparatus and was allowed to shake at 55 psi until uptake of hydrogen ceased. The catalyst was then filtered to afford 1.16 g of 4-(3-Morpholin-4-yl-piperidin-1-yl)-phenylamine without further purification. (M+H)=262.7. 1H NMR (400 MHz, DMSO, d6) δ 6.67 (d, 2H, J=8.72 Hz), 6.47 (d, 2H, J=10.09 Hz), 4.54 (s, 2H), 3.55 (m, 4H), 3.41 (m, 1H), 3.22 (m, 1H), 2.51 (m, 4H), 2.40 (m, 3H), 1.86 (m, 1H), 1.76 (m, 1H), 1.56 (m, 1H), 1.18 (m, 1H).

reactant | 4-[1-(4-Nitro-phenyl)-piperidin-3-yl]-morpholine | 4.46 mmol, 1.30 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CC(CCC1)N1CCOCC1 | C15H21N3O3
reactant | Ethanol | 599 mmol, 35.0 mL | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
catalyst | Palladium on Carbon | 37.5 mmol, 0.500 g | [Pd] | Pd
product | 4-(3-Morpholin-4-yl-piperidin-1-yl)-phenylamine | 1.16 g | N1(CCOCC1)C1CN(CCC1)C1=CC=C(C=C1)N | C15H23N3O
